US09359329B2
4.1. 6-chloro-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide
To a solution of 1.3 g (11.8 mmol) of N-methylpyridin-2-amine in 25 mL of DCM are added, at 0° C., 3.3 mL (23.6 mmol) of triethylamine and then, portionwise, 2.5 g (11.8 mmol) of 6-chloropyridine-3-sulfonyl chloride (prepared according to document WO 98/40332). After stirring for 12 hours at room temperature, the reaction medium is taken up in 100 mL of DCM, washed successively with 100 mL of water and 30 mL of brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a 4/1 cyclohexane/EtOAc mixture. After concentrating under reduced pressure, 2.8 g of 6-chloro-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide are obtained in the form of a brown solid.

reactant | N-methylpyridin-2-amine | 11.8 mmol, 1.3 g | CNC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 23.6 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloropyridine-3-sulfonyl chloride | 11.8 mmol, 2.5 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-N-methyl-N-pyridin-2-ylpyridine-3-sulfonamide | ClC1=CC=C(C=N1)S(=O)(=O)N(C1=NC=CC=C1)C | C11H10ClN3O2S
